US06608203B2
6-Benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline
A mixture of 1-{6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}-2,2,2-trifluoroethanone (1.088 g, 2.1 mmol) and anhydrous K2CO3 (2.861 g, 20.7 mmol) in MeOH (150 ml) was refluxed under N2 for 18 hr, then evaporated in vacuo to a yellow residue. This was dissolved in H2O (25 ml) and extracted with EtOAc (3×50 ml). The combined extracts were dried over MgSO4, and concentrated in vacuo to give 0.881 g of crude yellow product. Purification by flash chromatography, eluting first with EtOAc:MeOH (8:2), then with EtOAc:MeOH (1:1) gave 0.842 g (95% yield) of yellow oil.

reactant | 1-{6-benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-3,4-dihydro-1H-isoquinolin-2yl}-2,2,2-trifluoroethanone | 2.1 mmol, 1.088 g | C(C1=CC=CC=C1)OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1)C(C(F)(F)F)=O | C30H31F3N2O3
reactant | K2CO3 | 20.7 mmol, 2.861 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | MeOH | 150 ml | CO | CH4O
product | 6-Benzyloxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)phenyl]-1,2,3,4-tetrahydroisoquinoline | 0.842 g, 95% yield | C(C1=CC=CC=C1)OC=1C=C2CCNC(C2=CC1)C1=CC=C(C=C1)OCCN1CCCC1 | C28H32N2O2
